US08283364B2
1,1-Dimethylethyl 4-(6-cyclopropyl-4-fluoro-2-oxo-2,3-dihydro-1H-benzimidazol-1-yl)-1-piperidinecarboxylate (D28)
1,1-Dimethylethyl 4-[(2-amino-5-cyclopropyl-3-fluorophenyl)amino]-1-piperidinecarboxylate (D27, 0.80 mmol, 280 mg) was dissolved in 4 ml of tetrahydrofuran and CDI (1,1′-(oxomethanediyl)bis-1H-imidazole) (2.5 eq., 2.0 mmol, 0.33 g) at room temperature and the mixture was stirred at 50° C. for one overnight under argon. Extra CDI (1 eq., 0.13 g, 0.80 mmol) was added and the mixture was refluxed for two extra hours. The mixture was cooled to room temperature and the solvent was evaporated to afford the crude compound which was purified by chromatography (ethyl acetate (50)-n-hexane (50)) to yield the title compound, 102 mg, 36%, M−−H=374.

reactant | 1,1-Dimethylethyl 4-[(2-amino-5-cyclopropyl-3-fluorophenyl)amino]-1-piperidinecarboxylate | 0.80 mmol, 280 mg | NC1=C(C=C(C=C1F)C1CC1)NC1CCN(CC1)C(=O)OC(C)(C)C | C19H28FN3O2
reactant | CDI | 2.0 mmol, 0.33 g, 2.5 eq. | C1=CN(C=N1)C(=O)N2C=CN=C2 | C7H6N4O
reactant | CDI | 0.80 mmol, 0.13 g, 1 eq. | C1=CN(C=N1)C(=O)N2C=CN=C2 | C7H6N4O
solvent | tetrahydrofuran | 4 ml | O1CCCC1 | C4H8O
product | 1,1-Dimethylethyl 4-(6-cyclopropyl-4-fluoro-2-oxo-2,3-dihydro-1H-benzimidazol-1-yl)-1-piperidinecarboxylate | C1(CC1)C=1C=C(C2=C(N(C(N2)=O)C2CCN(CC2)C(=O)OC(C)(C)C)C1)F | C20H26FN3O3
